US07423148B2
A round bottom flask, oven dried and kept under N2 atmosphere was charged with Cs2CO3 (1.4 eq), Pd(OAc)2 (5 mol %), and S-(−)-BINAP (1.5×mol of Pd catalyst). The flask was purged with N2 for about 5-10 min and a solution of 2-morpholin-4-yl-6-[3-(phenylmethoxy)phenyl]pyrimidin-4-yl (trifluoromethyl) sulfonate (1eq) in dry THF (20 mL) was added via a syringe, followed by 3-aminopyridine (2 eq,) in one portion. The flask was equipped with a reflux condenser, purged again with N2 for 5 min and the reaction mixture was refluxed overnight. An efficient stirring is very important. The reaction mixture was cooled down to room temperature and the solvent was evaporated under reduced pressure. The residue was washed with water (x2) and triturated with methanol to afford the desired {2-morpholin-4-yl-6-[3-(phenylmethoxy)phenyl]pyrimidin-4-yl}-3-pyridylamine.

reactant | Cs2CO3 | 1.4 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-morpholin-4-yl-6-[3-(phenylmethoxy)phenyl]pyrimidin-4-yl (trifluoromethyl) sulfonate | 1eq | FC(F)(F)S(=O)(=O)OC1=NC(=NC(=C1)C1=CC(=CC=C1)OCC1=CC=CC=C1)N1CCOCC1 | C22H20F3N3O5S
reactant | 3-aminopyridine | 2 eq | NC=1C=NC=CC1 | C5H6N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | {2-morpholin-4-yl-6-[3-(phenylmethoxy)phenyl]pyrimidin-4-yl}-3-pyridylamine | N1(CCOCC1)C1=NC(=CC(=N1)NC=1C=NC=CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C26H25N5O2
